US04894385
4-[2-(2-Methoxyphenyl)-1-(imidazol-1-yl)propylthio]benzoic acid
4.7 ml of a 1N aqueous solution of sodium hydroxide were added to 450 mg of methyl 4-[2-(2-methoxyphenyl)-1-(imidazol-1-yl)propylthio]benzoate prepared as described in Example 43) in 4.7 ml of methanol, and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was then treated and purified by the same method as described in Example 28, to give 300 mg of the title compound as a powder, melting at 118°-124° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl 4-[2-(2-methoxyphenyl)-1-(imidazol-1-yl)propylthio]benzoate | 450 mg | COC1=C(C=CC=C1)C(C(SC1=CC=C(C(=O)OC)C=C1)N1C=NC=C1)C | C21H22N2O3S
solvent | methanol | 4.7 ml | CO | CH4O
product | 4-[2-(2-Methoxyphenyl)-1-(imidazol-1-yl)propylthio]benzoic acid | 300 mg | COC1=C(C=CC=C1)C(C(SC1=CC=C(C(=O)O)C=C1)N1C=NC=C1)C | C20H20N2O3S
